US06486184B2
To a solution of rac-(3-chloro-4-methanesulfonyl-phenyl)-(cyclohex-2-enyloxy)-acetic acid (50 mg, 0.15 mmol) in dichloromethane (10 mL) at 25° C. was added 2-aminothiazole (22 mg, 0.22 mmol), BOP reagent (96.2 mg, 0.22 mmol) and triethylamine (0.06 mL, 0.44 mmol). The mixture was stirred at 25° C. for 16 h, then was diluted with water (10 mL) and extracted with dichloromethane (3×20 mL). The combined organic layers were washed with water (1×10 mL), 1N sodium hydroxide (1×10 mL), 1N hydrochloric acid (1×10 mL) and brine ( 1×10 mL), then were dried over sodium sulfate, filtered and evaporated under reduced pressure. The product was purified by chromatography (Biotage Flash 40S column, 60/40 hexanes/ethyl acetate) to furnish rac-2-(3-chloro-4-methanesulfonyl-phenyl)-2-(cyclohex-2-enyloxy)-N-thiazol-2-yl-acetamide (39 mg, 63% yield) as a glassy solid: EI-HRMS m/e calculated for C18H19N2O4S2Cl (M+) 426.0475, found 426.0479.

reactant | rac-(3-chloro-4-methanesulfonyl-phenyl)-(cyclohex-2-enyloxy)-acetic acid | 0.15 mmol, 50 mg | ClC=1C=C(C=CC1S(=O)(=O)C)C(C(=O)O)OC1C=CCCC1 | C15H17ClO5S
reactant | 2-aminothiazole | 0.22 mmol, 22 mg | NC=1SC=CN1 | C3H4N2S
reactant | BOP reagent | 0.22 mmol, 96.2 mg | CN(C)[P+](N(C)C)(N(C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | triethylamine | 0.44 mmol, 0.06 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
solvent | water | 10 mL | O | H2O
product | rac-2-(3-chloro-4-methanesulfonyl-phenyl)-2-(cyclohex-2-enyloxy)-N-thiazol-2-yl-acetamide | 39 mg, 63% yield | ClC=1C=C(C=CC1S(=O)(=O)C)C(C(=O)NC=1SC=CN1)OC1C=CCCC1 | C18H19ClN2O4S2
